US09062046B2
Step 3: N-(5-(2-(cyanoimino)-1-(4-(2-cyanopropan-2-yl)phenyl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-yl)-2-methoxypyridin-3-yl)benzenesulfonamide
To the stirred solution (2-(cyanoimino)-1-(4-(2-cyanopropan-2-yl)phenyl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-yl)boronic acid (0.390 mmol) in dry DMF (5 ml) was added N-(5-bromo-2-methoxypyridin-3-yl)benzenesulfonamide (0.39 mmol) followed by catalyst palladium dichlorobis triphenylphosphine (0.039 mmol). Saturated solution of sodium carbonate (0.780 mmol) was added to it and the resulting solution was heated at 111° C. for 8 minutes in microwave. Solvent was removed and the crude material was extracted with EtOAc, washed with brine several times and dried over anhydrous Na2SO4. The solvent was evaporated and the crude solid was purified (silica gel column, CHCl3/MeOH as eluent) to obtain the title compound. 1H NMR (300 MHz, DMSO-d6): δ 10.01 (s, 1H), 9.23 (s, 1H), 8.20 (d, J=8.7 Hz, 1H), 7.88 (s, 4H), 7.84 (m, 1H), 7.70 (m, 4H), 7.56 (m, 3H), 6.83 (s, 1H), 3.92 (s, 3H), 3.58 (s, 3H), 1.81 (s, 6H); MS (m/z): 629 (M+1)+.

reactant | (2-(cyanoimino)-1-(4-(2-cyanopropan-2-yl)phenyl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-yl)boronic acid | 0.390 mmol | C(#N)N=C1N(C2=C(C=NC=3C=CC(=CC23)B(O)O)N1C)C1=CC=C(C=C1)C(C)(C)C#N | C22H19BN6O2
reactant | N-(5-bromo-2-methoxypyridin-3-yl)benzenesulfonamide | 0.39 mmol | BrC=1C=C(C(=NC1)OC)NS(=O)(=O)C1=CC=CC=C1 | C12H11BrN2O3S
reactant | sodium carbonate | 0.780 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(5-(2-(cyanoimino)-1-(4-(2-cyanopropan-2-yl)phenyl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-yl)-2-methoxypyridin-3-yl)benzenesulfonamide | C(#N)N=C1N(C2=C(C=NC=3C=CC(=CC23)C=2C=C(C(=NC2)OC)NS(=O)(=O)C2=CC=CC=C2)N1C)C1=CC=C(C=C1)C(C)(C)C#N | C34H28N8O3S
